US08242133B2
To a mixture of 0.58 g of WSC and 5 ml of pyridine, 0.37 g of isonicotinic acid was added. The reaction mixture was stirred at room temperature for 25 minutes. To the reaction mixture, 0.75 g of 2-amino-4-(heptafluoroisopropyl)phenol was added and was stirred while heating at 60° C. for three hours. The mixture was cooled to room temperature, and then concentrated under reduced pressure. Then, water was added to the residue, followed by extraction with ethyl acetate twice. The combined organic layers were washed with water and a saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.79 g of N-[2-hydroxy-5-(heptafluoroisopropyl)phenyl]isonicotinamide.

reactant | WSC | 0.58 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | isonicotinic acid | 0.37 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | 2-amino-4-(heptafluoroisopropyl)phenol | 0.75 g | NC1=C(C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)O | C9H6F7NO
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-[2-hydroxy-5-(heptafluoroisopropyl)phenyl]isonicotinamide | 0.79 g | OC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)F)NC(C1=CC=NC=C1)=O | C15H9F7N2O2
